US09120793B2
(S)-3-{4-[2-(4-Cyano-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester
To a stirred solution of ethyl (3S)-3-[4-[(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-6-yl)methoxy]phenyl]hex-4-ynoate (0.25 g, 0.57 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile (0.14 g, 0.5 mmol) in dioxane (115 mL) is added K2CO3 (0.15 g, 1.134 mmol). The mixture is purged with argon for 30 minutes, Pd(PPh3)4 (0.032 g, 0.027 mmol) is added and the mixture is heated at 100° C. for 5 hours. The reaction mixture is cooled to room temperature, filtered through diatomaceous earth. The filtrate is evaporated under reduced pressure and concentrated to dryness. The crude material is purified by silica gel chromatography (combiflash) eluting with 30% EtOAc/hexane to give the title compound as a brown liquid (0.170 g, 68.75%). LCMS m/z 464 (M+H).

reactant | ethyl (3S)-3-[4-[(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-6-yl)methoxy]phenyl]hex-4-ynoate | 0.57 mmol, 0.25 g | BrC1=NN2C(C=CC(=C2)COC2=CC=C(C=C2)[C@H](CC(=O)OCC)C#CC)=N1 | C21H20BrN3O3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 0.5 mmol, 0.14 g | CC1(OB(OC1(C)C)C1=CC=C(C#N)C=C1)C | C13H16BNO2
reactant | K2CO3 | 1.134 mmol, 0.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 115 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.027 mmol, 0.032 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-3-{4-[2-(4-Cyano-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester | 0.170 g, 68.75% | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)C#N)=O | C28H24N4O3
